US05726313
A) 2-(3,4-Dichlorophenyl)-2-[N-(2-hydroxyethyl)-N-methylamino]acetonitrile
A mixture of 10 g of 3,4-dichlorobenzaldehyde and 9.5 ml of cyanotrimethylsilane is cooled in an ice bath, 0.01 g of zinc iodide is added and the mixture is stirred for 15 minutes at RT. A solution of 4.5 g of 2-(methylamino)ethanol in 50 ml of MeOH is then added and the reaction mixture is heated at 60° C. for 2 hours. After one night at RT, it is concentrated under vacuum, the residue is extracted with ether and the organic phase is washed with water, dried over MgSO4 and filtered. The filtrate is acidified to pH 1 by the addition of a saturated solution of hydrochloric acid in ether, acetone is added and the mixture is stirred until crystallization occurs. This gives 15 g of the expected product after wringing of the crystals formed. M.p.=130° C.

reactant | 3,4-dichlorobenzaldehyde | 10 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | cyanotrimethylsilane | 9.5 ml | C(#N)[Si](C)(C)C | C4H9NSi
reactant | 2-(methylamino)ethanol | 4.5 g | CNCCO | C3H9NO
solvent | MeOH | 50 ml | CO | CH4O
catalyst | zinc iodide | 0.01 g | [I-].[Zn+2].[I-]
product | 2-(3,4-Dichlorophenyl)-2-[N-(2-hydroxyethyl)-N-methylamino]acetonitrile | 15 g | ClC=1C=C(C=CC1Cl)C(C#N)N(C)CCO | C11H12Cl2N2O
